US07956202B2
A. (E and Z)-2-(5-chloro-2-phenoxy-phenyl)-3-hydroxy-acrylic acid methyl ester
A solution of (5-chloro-2-phenoxy-phenyl)-acetic acid methyl ester (167 g, 605 mmol) and methyl formate (173 mL, 2.8 mol) in t-butyl methyl ether (1 L) was cooled to −10° C. To this solution was added potassium t-butoxide (115 g, 1.03 mol) portionwise so that the temperature remained below 0° C. After 30 minutes, the reaction was quenched by addition of 4N aqueous hydrochloric acid (400 mL). The organic layer was separated and washed with water (3×350 mL) and saturated brine (350 mL). The organic fractions were combined and concentrated to dryness and used without purification. The product is 90% E as shown by NMR. 1H NMR (400 MHz, CDCl3) 3.6 (s, 3H, E methyl group; Z methyl is at 3.7), 6.8 (d, 1H), 6.9 (m, 2H), 7.0 (t, 1H), 7.2 (m, 3H), 7.3 (m, 2H), 11.8 (d, 1H, E hydroxy proton; Z hydroxy proton is at 4.7).

reactant | (5-chloro-2-phenoxy-phenyl)-acetic acid methyl ester | 605 mmol, 167 g | COC(CC1=C(C=CC(=C1)Cl)OC1=CC=CC=C1)=O | C15H13ClO3
reactant | methyl formate | 2.8 mol, 173 mL | C(=O)OC | C2H4O2
reactant | potassium t-butoxide | 1.03 mol, 115 g | CC(C)([O-])C.[K+]
solvent | t-butyl methyl ether | 1 L | COC(C)(C)C | C5H12O
product | 2-(5-chloro-2-phenoxy-phenyl)-3-hydroxy-acrylic acid methyl ester | COC(C(=CO)C1=C(C=CC(=C1)Cl)OC1=CC=CC=C1)=O | C16H13ClO4
